US07943634B2
Step 6: 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylic acid
To a well stirred solution of 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxaldehyde (55.0 g, 0.225 moles), sulphamic acid (76.0 g, 0.787 moles) in acetone (600 mL) was added a solution of sodium chlorite (51.0 g, 0.562 moles) in water (150 mL) at 0-5° C. and stirred for 5-6 hrs. Ice cold water (1.0 L) was added to reaction mixture; solid separated was filtered and purified by acid-base technique to get 40.0 g of pure product.

reactant | 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxaldehyde | 0.225 moles, 55.0 g | C1(CCCC1)OC1=CC=C(C2=C1OC(=C2)C)C=O | C15H16O3
reactant | sulphamic acid | 0.787 moles, 76.0 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 0.562 moles, 51.0 g | Cl(=O)[O-].[Na+]
solvent | acetone | 600 mL | CC(=O)C | C3H6O
solvent | water | 150 mL | O | H2O
product | 7-cyclopentyloxy-2-methylbenzo[b]furan-4-carboxylic acid | 40.0 g | C1(CCCC1)OC1=CC=C(C2=C1OC(=C2)C)C(=O)O | C15H16O4
